US05321027
1 g of 1-[4-aminobenzoyl]-4-[2-(4-chlorophenyl)ethyl]-piperazine and 0.4 g of Hunig base (=N-ethyldiisopropylamine) are dissolved in 15 ml of tetrahydrofuran. A solution of 0.75 g of chloroformic acid 4-nitrobenzyl ester in 5 ml of tetrahydrofuran is added dropwise thereto. The reaction solution is stirred for 3.5 hours at room temperature and for 2 hours at a bath temperature of 55°. The solution is concentrated by evaporation and the residue is taken up in methylene chloride and washed with water. Colourless crystals of 1-[4-(N-4-nitrobenzyloxycarbonylamino)benzoyl]-4-[2-(4-chlorophenyl)ethyl]-piperazine having a melting point of 146°-148° are obtained from alcohol.

reactant | 1-[4-aminobenzoyl]-4-[2-(4-chlorophenyl)ethyl]-piperazine | 1 g | NC1=CC=C(C(=O)N2CCN(CC2)CCC2=CC=C(C=C2)Cl)C=C1 | C19H22ClN3O
reactant | Hunig base | 0.4 g | CCN(C(C)C)C(C)C | C8H19N
reactant | chloroformic acid 4-nitrobenzyl ester | 0.75 g | [N+](=O)([O-])C1=CC=C(COC(=O)Cl)C=C1 | C8H6ClNO4
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 1-[4-(N-4-nitrobenzyloxycarbonylamino)benzoyl]-4-[2-(4-chlorophenyl)ethyl]-piperazine | [N+](=O)([O-])C1=CC=C(COC(=O)NC2=CC=C(C(=O)N3CCN(CC3)CCC3=CC=C(C=C3)Cl)C=C2)C=C1 | C27H27ClN4O5
